US07915281B2
A mixture of 4-chloro-2-(ethoxymethyl)-1-[3-(3-phenylisoxazol-5-yl)propyl]-1H-imidazo[4,5-c]quinoline (2.22 g, 4.97 mmol) in a solution of 7 M ammonia in methanol (25 mL) was heated at 150° C. for 17 hours in a Parr pressure vessel. The volatiles were removed under reduced pressure and the resulting solid was triturated with 1 M aqueous sodium hydroxide and isolated by filtration. The crude product was purified by flash chromatography (silica gel, gradient elution from 10% to 20% CMA in chloroform). The appropriate fractions were combined and concentrated to yield a solid that was triturated with hot diethyl ether and 9:1 dichloromethane/methanol (10 mL). The final material was dried at 80° C. under vacuum to yield 2-(ethoxymethyl)-1-[3-(3-phenylisoxazol-5-yl)propyl]-1H-imidazo[4,5-c]quinolin-4-amine (954 mg) as a white powder, mp 171.0-172.0° C.

reactant | 4-chloro-2-(ethoxymethyl)-1-[3-(3-phenylisoxazol-5-yl)propyl]-1H-imidazo[4,5-c]quinoline | 4.97 mmol, 2.22 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCCC2=CC(=NO2)C2=CC=CC=C2)COCC | C25H23ClN4O2
reactant | ammonia | 7 M | N | H3N
solvent | methanol | 25 mL | CO | CH4O
product | 2-(ethoxymethyl)-1-[3-(3-phenylisoxazol-5-yl)propyl]-1H-imidazo[4,5-c]quinolin-4-amine | 954 mg | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCC1=CC(=NO1)C1=CC=CC=C1 | C25H25N5O2
